US08212052B2
2-Ethoxy-3-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-3H-benzoimidazole-4-carboxylic acid (1-chloromethyl-3-methylbutyl)amide
1-Chloromethyl-3-methylbutylamine hydrochloride (39 mg, 230 μmol) and triethylamine (31.6 μL, 1 equiv) were dissolved in DCM (2.00 mL). 2-Ethoxy-3-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-3H-benzimidazole-4-carboxylic acid (100 mg, 1 equiv) was added, followed by HOBt (31 mg, 1 equiv) and EDC HCl (51 mg, 1.1 equiv). The reaction was stirred overnight at room temperature, then diluted with DCM (10 mL), washed (H2O, 10 mL), dried over NaSO4, decanted, and the solvent evaporated. The residue was purified by flash chromatography (5% MeOH/DCM) to afford the title compound as a white solid (19 mg, 15%). ESMS [M+H]+ calcd for C30H32ClN7O2 557.3. found 558.3.

reactant | 1-Chloromethyl-3-methylbutylamine hydrochloride | 230 μmol, 39 mg | Cl.ClCC(CC(C)C)N
reactant | triethylamine | 31.6 μL, 1 equiv | C(C)N(CC)CC | C6H15N
reactant | 2-Ethoxy-3-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-3H-benzimidazole-4-carboxylic acid | 100 mg, 1 equiv | C(C)OC=1N(C2=C(N1)C=CC=C2C(=O)O)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2 | C24H20N6O3
reactant | HOBt | 31 mg, 1 equiv | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDC HCl | 51 mg, 1.1 equiv | CCN=C=NCCCN(C)C.Cl
solvent | DCM | 2.00 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | 2-Ethoxy-3-[2′-(1H-tetrazol-5-yl)-biphenyl-4-ylmethyl]-3H-benzoimidazole-4-carboxylic acid (1-chloromethyl-3-methylbutyl)amide | 19 mg, 15% | ClCC(CC(C)C)NC(=O)C1=CC=CC=2N=C(N(C21)CC2=CC=C(C=C2)C2=C(C=CC=C2)C2=NN=NN2)OCC | C30H32ClN7O2
